US08106064B2
5-[Cyano-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methyl]-isophthalonitrile:
5-Cyanomethyl-isophthalonitrile (0.285 g, 1.70 mmol) and 4-chloro-5-isopropyl-2,6-dimethoxy-pyrimidine (0.360 g, 1.66 mmol) was dissolved in DMF (8.0 mL) and cooled to 0° C. 60% Sodium hydride (0.136 g, 3.40 mmol) was added portionwise and the reaction was stirred at 0° C. for 2 h, then rt overnight. The reaction was quenched with saturated ammonium chloride solution and pH was adjusted to ˜6.0 with 1N HCl. Mixture was extracted with ethyl acetate and organic layer was dried (MgSO4) and concentrated. The resulting residue was purified by flash column chromatography (silica gel, 10 to 50% ethyl acetate/hexane) to give a white solid (0.2457 g, 43%). 1H NMR (300 MHz, CDCl3): δ 7.90 (s, 3H), 5.46 (s, 1H), 3.96 (s, 3H), 3.89 (s, 3H), 3.05-2.9 (m, 1H), 1.16 (d, J=6.9 Hz, 3H), 1.15 (d, J=7.2 Hz, 3H).

reactant | 5-Cyanomethyl-isophthalonitrile | 1.70 mmol, 0.285 g | C(#N)CC=1C=C(C=C(C#N)C1)C#N | C10H5N3
reactant | 4-chloro-5-isopropyl-2,6-dimethoxy-pyrimidine | 1.66 mmol, 0.360 g | ClC1=NC(=NC(=C1C(C)C)OC)OC | C9H13ClN2O2
reactant | Sodium hydride | 3.40 mmol, 0.136 g | [H-].[Na+]
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | 5-[Cyano-(5-isopropyl-2,6-dimethoxy-pyrimidin-4-yl)-methyl]-isophthalonitrile | 0.2457 g, 43% | C(#N)C(C=1C=C(C=C(C#N)C1)C#N)C1=NC(=NC(=C1C(C)C)OC)OC | C19H17N5O2
